US06548493B1
tert-butyl (6aS,10aR)-2-(2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 89 step C from tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate (189 mg, 0.5 mmol) and 2-methylphenylboronic acid (136 mg, 1.0 mmol) to afford after chromatographic purification the title compound (90 mg, 46%). 1H NMR (CDCl3, 300 MHz) δ7.11-7.18 (m,4H), 6.82 (s, 1H), 6.77 (s, 1H), 3.86-4.30 (m, 2H), 3.58-3.64 (m, 1H), 2.76-3.42 (m, 7H), 2.20 (s, 3H), 1.70-1.85 (m, 2H), 1.40 (s, 9H) ppm. MS-ApCI: 391 [M+H+].

reactant | tert-butyl (6aS,10aR)-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH) carboxylate | 0.5 mmol, 189 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2-methylphenylboronic acid | 1.0 mmol, 136 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
product | tert-butyl (6aS,10aR)-2-(2-methylphenyl)-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | CC1=C(C=CC=C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C25H30N2O2
